US05151424
A mixture of 3.1 parts of 1-(2-chloroethyl)-4-methoxybenzene, 6.9 parts of N-(3-pyrrolidinyl)-1-(4-thiazolylmethyl)-1H-benzimidazol-2-amine dihydrobromide, hemihydrate, 8.0 parts of sodium carbonate, 0.1 parts of potassium iodide and 120 parts of 4-methyl-2-pentanone was stirred for 22 hours at reflux temperature using a water separator. After cooling, the reaction mixture was poured into water. The organic phase was separated, washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and ammonium hydroxide (95:5:0.5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in 2-propanone. After cooling, the precipitated product was filtered off and dried, yielding 2.0 parts (21.7%) of N-[1-[2-(4-methoxyphenyl) ethyl]-3-pyrrolidinyl]-1-(4-thiazolylmethyl)-1H-benzimidazol-2-amine ethanedioate(1:2); mp. 191.1° C. (compound 121).

reactant | 1-(2-chloroethyl)-4-methoxybenzene | ClCCC1=CC=C(C=C1)OC | C9H11ClO
reactant | N-(3-pyrrolidinyl)-1-(4-thiazolylmethyl)-1H-benzimidazol-2-amine dihydrobromide | Br.Br.N1CC(CC1)NC1=NC2=C(N1CC=1N=CSC1)C=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-[1-[2-(4-methoxyphenyl) ethyl]-3-pyrrolidinyl]-1-(4-thiazolylmethyl)-1H-benzimidazol-2-amine ethanedioate | 21.7% | C(C(=O)O)(=O)O.COC1=CC=C(C=C1)CCN1CC(CC1)NC1=NC2=C(N1CC=1N=CSC1)C=CC=C2 | InChI=1S/C24H27N5OS.C2H2O4/c1-30-21-8-6-18(7-9-21)10-12-28-13-11-19(14-28)26-24-27-22-4-2-3-5-23(22)29(24)15-20-16-31-17-25-20;3-1(4)2(5)6/h2-9,16-17,19H,10-15H2,1H3,(H,26,27);(H,3,4)(H,5,6)
